US08212045B2
A flask was charged with (R)-2,2,5,5-tetramethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride (0.371 g, 1.30 mmol), sodium thiocyanate (0.0929 g, 1.15 mmol), pyridine (0.278 g, 0.764 mmol) was added and the reaction was heated to 40° C. for 30 minutes. 5-(Pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-amine (0.250 g, 0.764 mmol) was added and the reaction was stirred at 70° C. overnight. Water was added and the reaction was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified over silica gel (50 to 100% ethyl acetate in hexanes) to afford (S)-N-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine (0.233 g, 56.5% yield) as yellow solid.

reactant | (R)-2,2,5,5-tetramethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride | 1.30 mmol, 0.371 g | CC1(OC([C@@H](O1)C(=NOS(=O)(=O)C)Cl)(C)C)C | C9H16ClNO5S
reactant | sodium thiocyanate | 1.15 mmol, 0.0929 g | [S-]C#N.[Na+]
reactant | pyridine | 0.764 mmol, 0.278 g | N1=CC=CC=C1 | C5H5N
reactant | 5-(Pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-amine | 0.764 mmol, 0.250 g | N1=C(C=CC=C1)SC=1C=C(C(=NC1)N)OC=1C(=NN(C1C)C)C | C16H17N5OS
solvent | Water | O | H2O
product | (S)-N-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine | 0.233 g, 56.5% yield | N1=C(C=CC=C1)SC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC(OC1(C)C)(C)C)OC=1C(=NN(C1C)C)C | C25H29N7O3S2
